US05441971
Sodium hydride in oil (60%, 7.0 g) was added with ice-cooling to a solution of 5-(1-hydroxyethyl)-2-methylpyridine (20.0 g) in N,N-dimethylformamide (120 ml). The mixture was stirred for 15 minutes. Then, chloromethyl methyl ether (14.1 g) was added dropwise at the same temperature. The reaction mixture was further stirred for 30 minutes with ice-cooling. The mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and subjected to distillation under reduced pressure to obtain 5-(1-methoxymethoxyethyl)-2-methylpyridine (21.5 g, yield: 81%), b.p. 78°-80° C./0.8 mmHg.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-(1-hydroxyethyl)-2-methylpyridine | 20.0 g | OC(C)C=1C=CC(=NC1)C | C8H11NO
reactant | chloromethyl methyl ether | 14.1 g | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 5-(1-methoxymethoxyethyl)-2-methylpyridine | 21.5 g, yield: 81% | COCOC(C)C=1C=CC(=NC1)C | C10H15NO2
